* Testbench for analogtobi_2520 (sky130 typical)
.lib "{{SKY130_LIB}}" tt

* --- Supply (AC for PSRR) ---
VDD VDD 0 DC 1.8 AC 1
VSS VSS 0 DC 0

* --- Reference voltage ---
V__VREF1 VREF1 0 DC 1.2

* --- Error amplifier input ---
V__VIN1 VIN1 0 DC 1.2

* --- Bias (BFS + Vth/Vov) ---
I__MB1 VB1 VSS DC 1.860902e-05
I__MB2 VB2 VSS DC 1.860902e-05
X__MB3 VB3 VB3 VSS VSS sky130_fd_pr__nfet_01v8 W=3.0761 L=0.603679
I__MB3 VDD VB3 DC 1.860902e-05
X__MB4 VB4 VB4 VDD VDD sky130_fd_pr__pfet_01v8 W=3.0761 L=0.603679
I__MB4 VB4 VSS DC 1.860902e-05
X__MB5 VB5 VB5 VSS VSS sky130_fd_pr__nfet_01v8 W=3.0761 L=0.603679
I__MB5 VDD VB5 DC 1.860902e-05
* --- DUT: analogtobi_2520 ---
XMM8 net9 net9 VSS VSS sky130_fd_pr__nfet_01v8 W=3.0761 L=0.603679
XMM7 net8 net9 VSS VSS sky130_fd_pr__nfet_01v8 W=3.0761 L=0.603679
XMM3 net20 net38 net16 VSS sky130_fd_pr__nfet_01v8 W=3.0761 L=0.603679
XMM0 net11 VREF1 net16 VSS sky130_fd_pr__nfet_01v8 W=3.0761 L=0.603679
XMM4 net16 net1005 VSS VSS sky130_fd_pr__nfet_01v8 W=6.1523 L=0.603679
XMM6 net9 net11 VIN1 VIN1 sky130_fd_pr__pfet_01v8 W=3.0761 L=0.603679
XMM5 net8 net20 VIN1 VIN1 sky130_fd_pr__pfet_01v8 W=3.0761 L=0.603679
XMM1 net20 net20 VIN1 VIN1 sky130_fd_pr__pfet_01v8 W=3.0761 L=0.603679
XMM2 net11 net11 VIN1 VIN1 sky130_fd_pr__pfet_01v8 W=3.0761 L=0.603679
XMM2_1 net1005 net1005 VSS VSS sky130_fd_pr__nfet_01v8 W=3.0761 L=0.603679
XMM10 VB1 net1007 VSS VSS sky130_fd_pr__nfet_01v8 W=3.0761 L=0.603679
XMM1_1 net1005 VB1 VIN1 VIN1 sky130_fd_pr__pfet_01v8 W=3.0761 L=0.603679
XMM0_1 VB1 VB1 VIN1 VIN1 sky130_fd_pr__pfet_01v8 W=3.0761 L=0.603679
XMM3_1 VB2 VB2 VIN1 VIN1 sky130_fd_pr__pfet_01v8 W=3.0761 L=0.603679
XMM1_2 net1007 VB2 VIN1 VIN1 sky130_fd_pr__pfet_01v8 W=3.0761 L=0.603679
RR0 net15 VSS 10k
XMM0_2 net1007 net1007 VSS VSS sky130_fd_pr__nfet_01v8 W=3.0761 L=0.603679
XMM2_2 VB2 net1007 net15 VSS sky130_fd_pr__nfet_01v8 W=3.0761 L=0.603679
XM14 VOUT1 net36 VIN1 VIN1 sky130_fd_pr__pfet_01v8 W=3.0761 L=0.603679
XM11 net36 net34 VIN1 VIN1 sky130_fd_pr__pfet_01v8 W=3.0761 L=0.603679
XM10 net34 net34 VIN1 VIN1 sky130_fd_pr__pfet_01v8 W=3.0761 L=0.603679
XM6 net26 net26 VIN1 VIN1 sky130_fd_pr__pfet_01v8 W=3.0761 L=0.603679
XM5 net20 net20 VIN1 VIN1 sky130_fd_pr__pfet_01v8 W=3.0761 L=0.603679
XM3 net17 net20 VIN1 VIN1 sky130_fd_pr__pfet_01v8 W=3.0761 L=0.603679
XM0 net11 VB4 VIN1 VIN1 sky130_fd_pr__pfet_01v8 W=3.0761 L=0.603679
XM13 net36 net11 VSS VSS sky130_fd_pr__nfet_01v8 W=3.0761 L=0.603679
XM12 net34 net8 VSS VSS sky130_fd_pr__nfet_01v8 W=3.0761 L=0.603679
XM9 net25 VB5 VSS VSS sky130_fd_pr__nfet_01v8 W=6.1523 L=0.603679
XM8 net20 VB3 net25 VSS sky130_fd_pr__nfet_01v8 W=3.0761 L=0.603679
XM7 net26 net17 net25 VSS sky130_fd_pr__nfet_01v8 W=3.0761 L=0.603679
XM4 net17 net8 VSS VSS sky130_fd_pr__nfet_01v8 W=3.0761 L=0.603679
XM2 net11 net11 VSS VSS sky130_fd_pr__nfet_01v8 W=3.0761 L=0.603679
XM1 net11 net8 VSS VSS sky130_fd_pr__nfet_01v8 W=3.0761 L=0.603679
C2 VOUT1 net38 1p
C1 VOUT1 net8 1p
C0 net8 net17 1p
R1 net38 VSS 10k
R0 VOUT1 net38 10k

* --- Load (1 mA nominal) ---
RL VOUT1 0 1200

CL VOUT1 0 7.842821e-12
.control
op
print v(VOUT1)
print @VDD[i]

ac dec 100 1 10G
meas ac dc_gain_dB find vdb(VOUT1) at=1
meas ac ugf_Hz when vdb(VOUT1)=0
quit
.endc

.end